US09303033B2
Synthesis of 7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde
Tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-ylcarbamate (1.1 g, 3.8 mmol) was added to 1,4-dioxane (15 mL) along with 3-chloroaniline (2.4 mL, 22.6 mmol) and p-toluenes sulfonic acid monohydrate (73 mg, 0.4 mmol). The reaction was heated at 95° C. for 12 hours then cooled to room temperature, diluted with water and filtered. Analysis of the recovered solid by LCMS showed product mass (M+1=288), as well as, product with chloro aniline imine mass (M+1=397). To completely convert this mixture to the desired product, the solid was dissolved in 6 mL of MeOH/conc. HCl solution (1:1) and heated at 60° C. for 1.5 hours. The reaction was quenched by slow addition to ice cold 6N NaOH. The mixture was diluted with water then the solid was collected by filtration. The solid was washed several more times with water then dried under vacuum overnight. The product, 7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde, was collected as orange-red solid in 38% yield. LCMS (M+1=288)

reactant | Tert-butyl 5-chloro-3-formylpyrazolo[1,5-a]pyrimidin-7-ylcarbamate | 3.8 mmol, 1.1 g | ClC1=NC=2N(C(=C1)NC(OC(C)(C)C)=O)N=CC2C=O | C12H13ClN4O3
reactant | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
reactant | 3-chloroaniline | 22.6 mmol, 2.4 mL | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | water | O | H2O
product | 7-amino-5-(3-chlorophenylamino)pyrazolo[1,5-a]pyrimidine-3-carbaldehyde | 38% yield | NC1=CC(=NC=2N1N=CC2C=O)NC2=CC(=CC=C2)Cl | C13H10ClN5O
